US06921762B2
Step A: 5-(4-fluorophenyl)-3-methyl-2-((1-methyl-1-phenylethyl)amino)-6-(4-pyridyl)-(3H)-pyrimidin-4-one
2-Chloro-3-methyl-6-(4-pyridyl)-5-(4-fluorophenyl)-4(3H)-pyrimidinone (5.43 g, 17.2 mmol) and cumyl amine (4.65 g, 34.4 mmol) were combined in dry isopropyl alcohol (ca. 40 mL) and the mixture was heated at reflux for 48 h. The reaction was cooled to RT, the solvent was evaporated in vacuo and the residue was partitioned between sat. aq. NaHCO3 and CHCl3. The organic layer was dried over Na2SO4 and then concentrated. The residue was purified by flash chromatography (1% MeOH/NH3:CHCl3) to provide the product as a tan solid; MS: m/z (M+H)+ 415; C25H23FN4O requir. 414.5.

reactant | 2-Chloro-3-methyl-6-(4-pyridyl)-5-(4-fluorophenyl)-4(3H)-pyrimidinone | 17.2 mmol, 5.43 g | ClC1=NC(=C(C(N1C)=O)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C16H11ClFN3O
reactant | cumyl amine | 34.4 mmol, 4.65 g | C(C)(C)(C1=CC=CC=C1)N | C9H13N
solvent | isopropyl alcohol | ca. 40 mL | C(C)(C)O | C3H8O
product | 5-(4-fluorophenyl)-3-methyl-2-((1-methyl-1-phenylethyl)amino)-6-(4-pyridyl)-(3H)-pyrimidin-4-one | FC1=CC=C(C=C1)C=1C(N(C(=NC1C1=CC=NC=C1)NC(C)(C1=CC=CC=C1)C)C)=O | C25H23FN4O
